US04521422
2-Furanyl(7-phenylpyrazolo[1,5-a]pyrimidin-3-yl)methanone
A mixture of 0.86 g of (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone and 0.63 g of 1-phenyl-1-propynone in 25 ml of ethanol with a catalytic amount of p-toluenesulfonic acid was heated on a steam bath for 1.5 hours. The mixture was chilled and then filtered giving 1.0 g of yellow solid. This solid was dissolved in a small amount of dichloromethane and placed on a silica gel column. The column was eluted with ethyl acetate:hexane (1:20) with a gradual change to ethyl acetate:hexane (2:5) as eluent. The column was then washed with ethyl acetate and the ethyl acetate wash was concentrated to a solid. This solid was cyrstallized from dichloromethane, giving 0.85 g of the desired product as cream crystals having a melting point of 188°-190° C. and a pmr spectrum identical to that of the product prepared as described in Example 22.

reactant | (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone | 0.86 g | NC1=NNC=C1C(=O)C=1OC=CC1 | C8H7N3O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 2-Furanyl(7-phenylpyrazolo[1,5-a]pyrimidin-3-yl)methanone | 1.0 g | O1C(=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C2=CC=CC=C2 | C17H11N3O2
